US06469004B1
Step e: Preparation of 4-Dimethylthiocarbamoyloxy-3-fluoro-5-nitro-2-o-tolylamino-benzoic acid methyl ester
The compound 4-dimethylthiocarbamoyloxy-2,3-difluoro-5-nitro-benzoic acid methyl ester is dissolved in excess o-toluidine. The stirring mixture is brought to 200° C. for one hour. The mixture is then poured into 5% aqueous hydrochloric acid. The aqueous mixture is extracted with diethyl ether. The organic phase is washed with water and brine, is dried over magnesium sulfate, and is concentrated in vacuo. The crude product is purified by ordinary methods such as chromatography or crystallization from an appropriate solvent.

reactant | 4-dimethylthiocarbamoyloxy-2,3-difluoro-5-nitro-benzoic acid methyl ester | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])OC(N(C)C)=S)F)F)=O | C11H10F2N2O5S
reactant | hydrochloric acid | Cl | ClH
reactant | o-toluidine | NC=1C(=CC=CC1)C | C7H9N
product | 4-Dimethylthiocarbamoyloxy-3-fluoro-5-nitro-2-o-tolylamino-benzoic acid methyl ester | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])OC(N(C)C)=S)F)NC1=C(C=CC=C1)C)=O | C18H18FN3O5S
